US06313142B1
A one liter, four neck flask under nitrogen atmosphere was charged with N-vinyl-carbamic acid benzyl ester (27.66 g, 156 mmol, 1.0 equiv) and dry toluene (500 mL). (1-Benzotriazol-1-yl-propyl)-(4-trifluoromethyl-phenyl)-amine (50.0 g, 156 mmol, 1.0 equiv) and p-toluenesulfonic acid monohydrate (297 mg, 1.56 mmol, 0.01 equiv) were added, and the mixture heated to 70° C. After 2 h, the mixture was cooled to room temperature and transferred to a separatory funnel. Ethyl acetate (500 mL) was added. The mixture was washed 1×200 mL 1 N NaOH, 1×200 mL H2O, 1×200 mL brine, and dried (MgSO4). The mixture was filtered and the solids washed 1×50 mL ethyl acetate. The filtrate was concentrated to approximately 250 mL. 500 mL toluene were added, and the mixture concentrated to approximately 500 mL. 500 mL n-heptane were added, the slurry was stirred 1 h, filtered through a Buchner funnel, and dried. cis-(2-Ethyl-6-trifluoromethyl-1,2,3,4-tetrahydro-quinolin4-yl)-carbamic acid benzyl ester was isolated as a white powder (45.04 g, 76%): mp 155-157° C.; 1H NMR (DMSO-d6, 400 MHz) δ0.92 (t, 3H, J=7.5 Hz), 1.5 (m, 3H), 2.00 (m, 1H), 3.35 (m, 1H), 4.77 (m, 1H), 5.07 (d, 1H, J=12.5 Hz), 5.15 (d, 1H, J=12.5 Hz), 6.35 (s, 1H), 6.61 (d, 1H, J=8.5 Hz), 7.12 (s, 1H), 7.18 (dd, 1H, J=1.9, 8.5 Hz), 7.4 (m, 5H), 7.70 (d, 1H, J=9.1 Hz); 13C NMR (DMSO-d6, 100 MHz) δ157.03, 149.02, 137.79, 128.82, 128.23, 128.03, 125.9 (q, J=270 Hz), 125.06, 123.50, 121.73, 115.2 (q, J=31.7 Hz), 113.33, 65.85, 52.09, 47.83, 34.02, 28.68, 9.93; DEPT spectrum: quaternary carbons δ157.03, 149.02, 137.79, 125.9, 121.73, 115.2; CH carbons δ128.82, 128.23, 128.03, 125.06, 123.50, 113.33, 52.09, 47.83; CH2 carbons δ65.85, 34.02, 28.68; CH3 carbon δ9.93; IR (drifts) 3430 (m), 3303 (s), 2951 (m), 1686 (vs), 1542 (vs), 1088 (vs); MS (APCI+) m/z (rel. intensity) 379 (M+H+, 53), 228 (100); Anal. Calcd for C20H21N2O2F3: C, 63.48; H, 5.59; N, 7.40; Found: C, 63.69; H, 6.06, N, 7.36.

reactant | N-vinyl-carbamic acid benzyl ester | 156 mmol, 27.66 g, 1.0 equiv | C(C1=CC=CC=C1)OC(NC=C)=O | C10H11NO2
reactant | toluene | 500 mL | C1(=CC=CC=C1)C | C7H8
reactant | (1-Benzotriazol-1-yl-propyl)-(4-trifluoromethyl-phenyl)-amine | 156 mmol, 50.0 g, 1.0 equiv | N1(N=NC2=C1C=CC=C2)C(CC)NC2=CC=C(C=C2)C(F)(F)F | C16H15F3N4
reactant | p-toluenesulfonic acid monohydrate | 1.56 mmol, 297 mg, 0.01 equiv | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | Ethyl acetate | 500 mL | C(C)(=O)OCC | C4H8O2
product | cis-(2-Ethyl-6-trifluoromethyl-1,2,3,4-tetrahydro-quinolin4-yl)-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N[C@@H]1C[C@@H](NC2=CC=C(C=C12)C(F)(F)F)CC)=O | C20H21F3N2O2
